US07629340B2
(S)-2-(3-Benzothiazol-6-yl-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester (Compound 6304)
A solution of (S)-2-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester (74 mg, 0.16 mmol), 6-bromo-benzothiazole (34.9 mg, 0.16 mmol), and Pd[P(Ph)3]4 (12.1 mg, 6.4 mol %) in methanol (2 mL), NaHCO3 (sat. aq., 300 μL), and DMF (400 μL) was degassed and heated to 70° C. overnight in a sealed vial. The reaction was cooled, filtered, and purified by reverse phase HPLC to give the desired product. Yield 5.6 mg. MS: 458.1 (M+H+); H1 NMR (DMSO-d6): δ (ppm) 1.18-1.25 (m, 2H), 1.76-2.00 (m, 3H), 2.10-2.34 (m, 1H), 4.28-4.40 (m, 1H), 4.87-5.10 (m, 2H), 7.00-7.56 (m, 7H), 7.68-7.66 (m, 1H), 7.97-8.15 (m, 2H), 8.33-8.39 (m, 1H), 9.35-9.39 (s, 1H), 10.09-10.16 (s, 1H).

reactant | (S)-2-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester | 0.16 mmol, 74 mg | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)C(NC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)=O | C25H31BN2O5
reactant | 6-bromo-benzothiazole | 0.16 mmol, 34.9 mg | BrC1=CC2=C(N=CS2)C=C1 | C7H4BrNS
reactant | DMF | 400 μL | CN(C)C=O | C3H7NO
solvent | methanol | 2 mL | CO | CH4O
solvent | NaHCO3 | 300 μL | C(=O)(O)[O-].[Na+]
product | (S)-2-(3-Benzothiazol-6-yl-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)C(NC1=CC(=CC=C1)C1=CC2=C(N=CS2)C=C1)=O | C26H23N3O3S
